US07820837B2
methyl [6-(3-chloropropoxy)-2,3-dihydro-1-benzofuran-3-yl]acetate
Methyl (6-hydroxy-2,3-dihydro-1-benzofuran-3-yl)acetate (2.71 g, 13.0 mmol) and 1-bromo-3-chloropropane (2.46 g, 15.6 mmol) were dissolved in N,N-dimethylformamide (15 mL), and potassium carbonate (1.98 g, 14.3 mmol) was added, and the mixture was stirred under nitrogen atmosphere at room temperature for 24 hr. The reaction mixture was concentrated under reduced pressure, and water added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (5%-30% ethyl acetate/hexane) to give the title compound (2.95 g, yield 80%) as a colorless oil.

reactant | Methyl (6-hydroxy-2,3-dihydro-1-benzofuran-3-yl)acetate | 13.0 mmol, 2.71 g | OC1=CC2=C(C(CO2)CC(=O)OC)C=C1 | C11H12O4
reactant | 1-bromo-3-chloropropane | 15.6 mmol, 2.46 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 14.3 mmol, 1.98 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | methyl [6-(3-chloropropoxy)-2,3-dihydro-1-benzofuran-3-yl]acetate | 2.95 g, yield 80% | ClCCCOC1=CC2=C(C(CO2)CC(=O)OC)C=C1 | C14H17ClO4
